US06624158B2
N1-Cyclopentyl-N1-isopropyl-1,2-ethanediamine
Lithium aluminium hydride (66 ml of a 1 molar solution in tetrahydrofuran, 0.066 mol) was added to a stirred solution of [cyclopentyl(isopropyl)amino]-acetonitrile (10 g, 0.66 mol) (Preparation 48) in tetrahydrofuran (100 ml) at 0° C. The reaction mixture was stirred at 0° C. for 20 minutes and then heated under reflux for 2 hours. The reaction mixture was allowed to cool to room temperature and left to stand overnight. The reaction mixture was cooled in an icebath and treated dropwise with 4.8 ml of a 7.5% w/w aqueous sodium hydroxide solution and then 7.4 ml of water. The solvent was removed under reduced pressure and the residue was slurried with diethyl ether (200 ml) for 30 minutes and then filtered. The filtrate was evaporated under reduced pressure to give the title compound as a colourless oil (10.30 g).

reactant | Lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | [cyclopentyl(isopropyl)amino]-acetonitrile | 0.66 mol, 10 g | C1(CCCC1)N(C(C)C)CC#N | C10H18N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 7.4 ml | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N1-Cyclopentyl-N1-isopropyl-1,2-ethanediamine | 10.30 g | C1(CCCC1)N(CCN)C(C)C | C10H22N2
